* C:\Users\Ankit Negi\OneDrive\Documents\hustle\Internship\VIT Chennai EV\Circuit\RC_Filter.asc
R1 N002 N001 100
R2 0 0 100
C1 N002 0 100n
C2 0 0 100n
V1 N001 0 AC 1
D1 0 N002 EDZV7_5B
.model D D
.lib C:\Users\Ankit Negi\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.ac dec 20 1 100k
.backanno
.end
